US08664217B2
2-Nitro-N-(2-pyridin-3-ylethyl)benzenesulfonamide (1.8 g, 5.8 mmol) and potassium carbonate (1.0 g, 7.2 mmol) were added to a DMF solution (30 ml) of 7-(3-iodopropoxy)-1,3,3,5-tetramethyl-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione (2.0 g, 4.8 mmol) and stirred at room temperature overnight. The reaction mixture was added to ice water, and extraction with ethyl acetate was performed. The organic layer was washed with water, dried over anhydrous sodium sulfate, concentrated under reduced pressure. The residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=1:2→ethyl acetate→ethyl acetate:methanol=20:1). The purified product was concentrated to dryness under reduced pressure to thereby obtain 2.29 g (yield: 80%) of 2-nitro-N-(2-pyridin-3-ylethyl)-N-[3-(1,3,3,5-tetramethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-7-yloxy)propyl]benzenesulfonamide as a yellow amorphous solid.

reactant | 2-Nitro-N-(2-pyridin-3-ylethyl)benzenesulfonamide | 5.8 mmol, 1.8 g | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)NCCC=1C=NC=CC1 | C13H13N3O4S
reactant | potassium carbonate | 7.2 mmol, 1.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 30 ml | CN(C)C=O | C3H7NO
reactant | 7-(3-iodopropoxy)-1,3,3,5-tetramethyl-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione | 4.8 mmol, 2.0 g | ICCCOC1=CC2=C(N(C(C(C(N2C)=O)(C)C)=O)C)C=C1 | C16H21IN2O3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-nitro-N-(2-pyridin-3-ylethyl)-N-[3-(1,3,3,5-tetramethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-7-yloxy)propyl]benzenesulfonamide | 2.29 g, yield: 80% | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)N(CCCOC1=CC2=C(N(C(C(C(N2C)=O)(C)C)=O)C)C=C1)CCC=1C=NC=CC1 | C29H33N5O7S
